US06797725B2
To the suspension of 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 2-(dimethoxy-phosphonooxy)-ethyl ester (180 mg,0.4 mmol) in 12 mL of acetonitrile was added bromotrimethylsilane (120 mL, 0.91 mmol) and N,O-bis-(trimethylsily)acetamide (225 mL, 0.91 mmol) sequentially. The reaction mixture was then stirred at room temperature for 42 h and concentrated. The residue was then washed with ethyl acetate, water, and 0.1 N HClaq and dried in a vacuum oven to yield 75 mg (37%) of 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 2-phosphonooxy-ethyl ester as a red solid. 1H NMR (400 MHz, CDCl3) δ 12.40 (s, br, 1H, NH-1′), 7.84-7.86 (m, 1H, H-4), 7.76-7.79 (m, 1H, H-7), 7.63 (s, 1H, H-vinyl), 7.19-7.22 (m, 2H, H-5, 6), 6.11 (d, J=1.95 Hz, 1H, H-4′), 4.52-4.56 (m, 2H, NCOOCH2CH2OPO(OCH3)2-1), 4.15-4.19 (m, 2H, NCOOCH2CH2OPO(OCH3)2-1), 2.37 (s, 3H, CH3), and 2.33 (s, 3H, CH3).

reactant | 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 2-(dimethoxy-phosphonooxy)-ethyl ester | 0.4 mmol, 180 mg | COOP(=O)(OOC)OCCOC(=O)N1C(\C(\C2=CC=CC=C12)=C/C=1NC(=CC1C)C)=O | C20H23N2O9P
reactant | bromotrimethylsilane | 0.91 mmol, 120 mL | Br[Si](C)(C)C | C3H9BrSi
solvent | acetonitrile | 12 mL | C(C)#N | C2H3N
product | 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 2-phosphonooxy-ethyl ester | 75 mg, 37% | P(=O)(O)(O)OCCOC(=O)N1C(\C(\C2=CC=CC=C12)=C/C=1NC(=CC1C)C)=O | C18H19N2O7P
